US04182865
2-Amino-1-methylimidazoline hydroiodide (26.75 g, 0.117 mole) is converted to its free base form by treatment with 50% sodium hydroxide. The base is extracted with methylene chloride and the extract dried over potassium carbonate and filtered. To this solution is added phenylisothiocyanate (15.81 g, 0.117 mole) and the reaction mixture is refluxed for three hours. The hot solution is filtered, concentrated to a small volume in vacuo, ether added, chilled, and the solid filtered off to give 23.6 g (86.1%) of N-(1-methyl-2-imidazolidinylidene)-N'-phenylthiourea; m.p. 205°-208° C.

reactant | 2-Amino-1-methylimidazoline hydroiodide | 0.117 mole, 26.75 g | I.NC=1N(CCN1)C
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenylisothiocyanate | 0.117 mole, 15.81 g | C1(=CC=CC=C1)N=C=S | C7H5NS
product | N-(1-methyl-2-imidazolidinylidene)-N'-phenylthiourea | 23.6 g, 86.1% | CN1C(NCC1)=NC(=S)NC1=CC=CC=C1 | C11H14N4S
